US09403805B2
Hydroxy-naphthalene-2-carboxylic acid [(3S,5S)-5-(azetidine-1-carbonyl)-1-cyclohexylmethyl-pyrrolidin-3-yl]-amide was prepared from (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid and azetidine in an analogous manner to example 1. MS calcd for C26H34N3O3 [(M+H)+] 436.0, obsd. 436.0.

reactant | (2S,4S)-1-cyclohexylmethyl-4-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-pyrrolidine-2-carboxylic acid | C1(CCCCC1)CN1[C@@H](C[C@@H](C1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O)C(=O)O | C23H28N2O4
reactant | azetidine | N1CCC1 | C3H7N
product | Hydroxy-naphthalene-2-carboxylic acid [(3S,5S)-5-(azetidine-1-carbonyl)-1-cyclohexylmethyl-pyrrolidin-3-yl]-amide | N1(CCC1)C(=O)[C@@H]1C[C@@H](CN1CC1CCCCC1)NC(=O)C1=C(C2=CC=CC=C2C=C1)O | C26H33N3O3
